US09278951B2
Synthesis of 3,3′,3″-(2,4,6-trimethylbenzene-1,3,5-triyl)tris(methylene)tris(4,5-dichloro-1-(naphthalen-2-ylmethyl)-1H-imidazol-3-ium) bromide)
4,5-dichloroimidazole (3.00 g, 21.90 mmol) was dissolved in THF and brought to reflux. Potassium hydroxide (2.46 g, 43.80 mmol) was added to the solution and allowed to reflux for 30 min. 1,3,5-tris(bromomethyl)-2,4,6-trimethylbenzene (2.91 g, 7.30 mmol) was added to the solution and refluxed overnight. Solution was filtered while hot to remove the KBr precipitate and the filtrate returned to reflux. 2-(bromomethyl)naphthalene (4.84 g, 21.90 mmol) was added to the solution and refluxed for 3 h. The volatiles were removed in vacuo and the resulting waxy yellow solid was washed in ethyl ether. A white precipitate was collected and analyzed. 1H NMR (300 MHz, DMSO-d6): δ 2.18, 4.86, 5.16, 7.33, 7.54, 7.92, 10.28.

reactant | 4,5-dichloroimidazole | 21.90 mmol, 3.00 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 43.80 mmol, 2.46 g | [OH-].[K+]
reactant | 1,3,5-tris(bromomethyl)-2,4,6-trimethylbenzene | 7.30 mmol, 2.91 g | BrCC1=C(C(=C(C(=C1C)CBr)C)CBr)C | C12H15Br3
reactant | 2-(bromomethyl)naphthalene | 21.90 mmol, 4.84 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | THF | C1CCOC1 | C4H8O
product | 3,3′,3″-(2,4,6-trimethylbenzene-1,3,5-triyl)tris(methylene)tris(4,5-dichloro-1-(naphthalen-2-ylmethyl)-1H-imidazol-3-ium) bromide | [Br-].CC1=C(C(=C(C(=C1C[N+]1=CN(C(=C1Cl)Cl)CC1=CC2=CC=CC=C2C=C1)C)C[N+]1=CN(C(=C1Cl)Cl)CC1=CC2=CC=CC=C2C=C1)C)C[N+]1=CN(C(=C1Cl)Cl)CC1=CC2=CC=CC=C2C=C1.[Br-].[Br-] | InChI=1S/C54H45Cl6N6.3BrH/c1-34-46(28-64-31-61(49(55)52(64)58)25-37-16-19-40-10-4-7-13-43(40)22-37)35(2)48(30-66-33-63(51(57)54(66)60)27-39-18-21-42-12-6-9-15-45(42)24-39)36(3)47(34)29-65-32-62(50(56)53(65)59)26-38-17-20-41-11-5-8-14-44(41)23-38;;;/h4-24,31-33H,25-30H2,1-3H3;3*1H/q+3;;;/p-3
